US04302460
7-Fluoro-3-methylsulphinyl-4-quinolone (5.0 g.) was dissolved in hot butanone (250 ml.) containing anhydrous potassium carbonate (3.06 g.). The resulting suspension was stirred and treated dropwise with dimethyl sulphate (2.09 ml.). The mixture was stirred and boiled under reflux for 1 hour and filtered while hot. The filtrate was allowed to cool, giving a crystalline product. The product was collected and dried to give 7-fluoro-1-methyl-3-methylsulphinyl-4-quinolone, m.p. 226°-8°.

reactant | 7-Fluoro-3-methylsulphinyl-4-quinolone | 5.0 g | FC1=CC=C2C(C(C=NC2=C1)S(=O)C)=O | C10H8FNO2S
reactant | potassium carbonate | 3.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 2.09 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | butanone | 250 ml | CC(CC)=O | C4H8O
product | 7-fluoro-1-methyl-3-methylsulphinyl-4-quinolone | FC1=CC=C2C(C(=CN(C2=C1)C)S(=O)C)=O | C11H10FNO2S
